US07968570B2
A mixture of 7-trifluoromethyl-5-bromo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.060 g, 0.15 mmol), and 30% sodium methoxide-methanol (0.21 mL) in methanol (4 mL) was stirred at 100° C. for 1 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-trifluoromethyl-5-methoxy-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.043 g, 70%). 1H NMR (300 MHz, CDCl3): δ (ppm) 3.88 (s, 3H), 4.25 (s, 2H), 4.76 (s, 2H), 7.02 (s, 1H), 7.17 (d, 2H), 7.28 (s, 1H), 7.37 (d, 2H).

reactant | 7-trifluoromethyl-5-bromo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.15 mmol, 0.060 g | FC(C=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)Br)(F)F | C17H10BrF6NO2
reactant | sodium methoxide methanol | 0.21 mL | C[O-].[Na+].CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 7-trifluoromethyl-5-methoxy-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.043 g, 70% | FC(C=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)OC)(F)F | C18H13F6NO3
